US09260441B2
Step B: 4-Methyl-2-piperazin-1-yl-pyrimidine dihydrochloride
The product from the previous step (tert-butyl 4-(4-methylpyrimidin-2-yl)piperazine-1-carboxylate) was dissolved in a one-to-one mixture of trifluoroacetic acid and DCM (8 ml) and stirred at room temperature for three hours. The volatiles were removed under reduced pressure, the residue was dissolved in DCM and evaporated. The residue was dissolved in THF (10 ml), HCl in dioxane (4N, 2 ml) was added and the resulting precipitate was collected by repeated centrifugation, dekantation and washing with THF to yield 107 mg of a solid (0.30 mmol, 71%). MS (APCI) m/z=179.1 [M+1]+.

reactant | tert-butyl 4-(4-methylpyrimidin-2-yl)piperazine-1-carboxylate | CC1=NC(=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H22N4O2
reactant | DCM | 8 ml | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-Methyl-2-piperazin-1-yl-pyrimidine dihydrochloride | 0.30 mmol, 107 mg, 71% | Cl.Cl.CC1=NC(=NC=C1)N1CCNCC1 | InChI=1S/C9H14N4.2ClH/c1-8-2-3-11-9(12-8)13-6-4-10-5-7-13;;/h2-3,10H,4-7H2,1H3;2*1H
